US06962934B2
Preparation of N-[(2S)-2-amino-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide
N-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide (377 mg, 0.735 mmol) is stirred with 1.5 mL of trifluoroacetic acid and 3 mL of dichloromethane for 25 min. It is then concentrated on a rotary evaporator and then neutralized with several mL of saturated aqueous sodium bicarbonate. The product is taken up in ethyl ether containing about 1% methanol, washed with several more mL of bicarbonate solution and with brine, and then dried over Na2SO4. Concentration afforded a quantitative yield of the title compound as a yellow solid. HRMS (ESI) calcd for C21H34F2N4O2+H1 413.2728, found 413.2730.

reactant | N-[(2S)-2-[(tert-butoxycarbonyl)amino]-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide | 0.735 mmol, 377 mg | C(C)(C)(C)OC(=O)N[C@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)CC1=CC(=CC(=C1)F)F | C26H42F2N4O4
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(2S)-2-amino-3-(3,5-difluorophenyl)propyl]-L-alanyl-N1-isobutyl-L-valinamide | quantitative yield | N[C@H](CN[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)NCC(C)C)CC1=CC(=CC(=C1)F)F | C21H34F2N4O2
